US06399629B1
(B) N-(2-Phenylethyl)-2-aminoaniline
N-(2-Phenylethyl)-2-nitroaniline (3.0 g, 12.4 mmol) was dissolved in MeOH (60 mL), and 10% Pd/C (300mg) was added. The mixture was hydrogenated at 1 atm for 18 hrs at room temperature, filtered over a celite pad and concentrated to an oil. The resulting oil was applied to a column prepacked with silica. The title compound was eluted from the column with EtOAc/Hexanes (1:3, v:v).

reactant | N-(2-Phenylethyl)-2-nitroaniline | 12.4 mmol, 3.0 g | C1(=CC=CC=C1)CCNC1=C(C=CC=C1)[N+](=O)[O-] | C14H14N2O2
solvent | MeOH | 60 mL | CO | CH4O
catalyst | Pd/C | 300mg | [Pd] | Pd
product | N-(2-Phenylethyl)-2-aminoaniline | C1(=CC=CC=C1)CCNC1=C(C=CC=C1)N | C14H16N2
